US07786141B2
To a mixture of piperidin-4-one HCl salt (4.08 g, 30 mmol) and Et3N (20 mL, 78.6 mmol) in EtOH (50 mL) was added 5-chloro-3-methyl-1,2,4-thiadiazole (4.05 g, 30 mmol). The mixture was heated to reflux for 1.5 hours and then concentrated to dryness. The residue was dissolved in EtOAc. The solution was washed with water (30 mL×3) and brine (30 mL), dried over Na2SO4, and concentrated to dryness. The residue was recrystalled from ether to give 1-(3-methyl-1,2,4-thiadiazol-5-yl)piperidin-4-one (510 mg, 8.6%). 1H-NMR (300 MHz, CDCl3) δ 3.86 (t, J=6.3 Hz, 4H), 2.62 (t, J=6.3, Hz, 4H), 2.44 (s, 3H).

reactant | piperidin-4-one HCl salt | 30 mmol, 4.08 g | Cl.N1CCC(CC1)=O
reactant | Et3N | 78.6 mmol, 20 mL | CCN(CC)CC | C6H15N
reactant | 5-chloro-3-methyl-1,2,4-thiadiazole | 30 mmol, 4.05 g | ClC1=NC(=NS1)C | C3H3ClN2S
solvent | EtOH | 50 mL | CCO | C2H6O
product | 1-(3-methyl-1,2,4-thiadiazol-5-yl)piperidin-4-one | 510 mg, 8.6% | CC1=NSC(=N1)N1CCC(CC1)=O | C8H11N3OS
